US07592477B2
To a solution of 4-(1,3-dioxolan-2-yl)benzonitrile (2 g, 0.01 mol) in dry pyridine (50 mL) and TEA (5.75 g, 0.057 mol) was passed H2S gas (freshly generated) for 1 h with stirring at RT. The reaction mixture was diluted with water (100 mL), extracted with diethyl ether (100 mL), washed with brine (50 mL) and dried. The solvent was removed under vacuum and the crude product was purified by column chromatography over silica gel (PetEther/EtOAc, 3/7) to give 4-(1,3-dioxolan-2-yl)benzenecarbothioamide (1.9 g, 86%) as yellow solid. TLC (PetEther/EtOAc 3/7), Rf=0.35

reactant | 4-(1,3-dioxolan-2-yl)benzonitrile | 0.01 mol, 2 g | O1C(OCC1)C1=CC=C(C#N)C=C1 | C10H9NO2
reactant | H2S | S | H2S
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 100 mL | O | H2O
product | 4-(1,3-dioxolan-2-yl)benzenecarbothioamide | 1.9 g, 86% | O1C(OCC1)C1=CC=C(C=C1)C(N)=S | C10H11NO2S
